US04223033
Following the procedure of Example 1, the acid chloride of 2-(2-naphthyl)-3-methylbutanoic acid is reacted with (6-benzyl-2-pyridyl)methanol to yield (6-benzyl-2-pyridyl)methyl 2-(2-naphthyl)-3-methylbutanoate.

reactant | 2-(2-naphthyl)-3-methylbutanoic acid | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C15H16O2
reactant | (6-benzyl-2-pyridyl)methanol | C(C1=CC=CC=C1)C1=CC=CC(=N1)CO | C13H13NO
product | (6-benzyl-2-pyridyl)methyl 2-(2-naphthyl)-3-methylbutanoate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC1=NC(=CC=C1)CC1=CC=CC=C1)C(C)C | C28H27NO2
